US08835472B2
4-Iodo-N-propyl-2-pyridone
To 2.0 g (9.05 mmol) 4-iodo-2-pyridone in 10 mL DMF are added 1.00 mL (10.9 mmol) 1-bromopropane and 3.13 g (22.6 mmol) K2CO3. The reaction mixture is stirred at r.t. over night. The reaction is quenched by the addition of water. The resulting mixture is extracted with EtOAc. The organic layer is washed with aq. NaHCO3 solution, dried with Na2SO4 and the solvent is removed in vacuo. The residue is purified by column chromatography (silica gel, heptane/EtOAc. 70/30→50/50)

reactant | 4-iodo-2-pyridone | 9.05 mmol, 2.0 g | IC1=CC(NC=C1)=O | C5H4INO
reactant | 1-bromopropane | 10.9 mmol, 1.00 mL | BrCCC | C3H7Br
reactant | K2CO3 | 22.6 mmol, 3.13 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Iodo-N-propyl-2-pyridone | IC1=CC(N(C=C1)CCC)=O | C8H10INO
